US04791209
A mixture of 5-(3-chlorobenzoyl)-4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid (11.5 g), hydroxylamine hydrochloride (21.5 g) and pyridine (110 ml) was refluxed for 14 hours. After distilling off the solvent, water was added to the mixture which then was rendered acidic with HCl and subjected to extraction with ether. The ether layer was washed with water an.d dried. By distilling off the solvent, 12 g of 5-(3-chloro-α-hydroxyiminobenzyl)4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid was obtained. This compound (12 g) was dissolved in anhydrous dimethylformamide (150 ml), and to the ice-cooled solution, 3.9 g of 60% sodium hydride was added in small amounts under agitation. After stirring for 8 hours at room temperature, the mixture was left to stand overnight. After adding water, the mixture was rendered acidic with HCl and subjected to extraction with ether. The ether layer was washed with water and dried. After distilling off the solvent, the residue was recrystallized from acetone-water, yielding 5.6 g of 5-chloro- 3-(3-chlorophenyl)-7,8-dihydrofuro[2,3-g]-1,2-benzisoxazole-7-carboxylic acid. m.p. 168°-169° C. This compound exhibited a mass spectrum having a molecular ion peak at m/e 349.

reactant | 5-(3-chlorobenzoyl)-4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid | 11.5 g | ClC=1C=C(C(=O)C2=C(C3=C(OC(C3)C(=O)O)C(=C2)Cl)Cl)C=CC1 | C16H9Cl3O4
reactant | hydroxylamine hydrochloride | 21.5 g | Cl.NO
solvent | pyridine | 110 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3-chloro-α-hydroxyiminobenzyl)4,7-dichloro-2,3-dihydrobenzo[b]furan-2-carboxylic acid | 12 g | ClC=1C=C(C(=NO)C2=C(C3=C(OC(C3)C(=O)O)C(=C2)Cl)Cl)C=CC1 | C16H10Cl3NO4
